US07358370B2
5,5-Dimethyl-1,3-cyclohexanedione (1.051 g, 7.5 mmol, 1.5 eq), cyclopropylacetic acid (500.6 mg, 5.0 mmol), and 4-dimethylaminopyridine (916.3 mg, 7.5 mmol, 1.5 eq) were dissolved in 10 mL of CH2Cl2, cooled to 0° C. in an ice bath. A solution of N,N′-dicyclohexylcarbodiimide (1.238 g, 16.0 mmol, 1.2 eq) in 5 mL of CH2Cl2 was added dropwise over two minutes to the cyclohexanedione solution. The reaction mixture was then stirred at 0° C. for 10 minutes and at room temperature for 16 hours. The reaction mixture was then filtered and the filtrate purified by column chromatography (hexane to 30% EtOAc/hexane) to yield 1.022 g (92% yield) 2-(2-Cyclopropylacetyl)-5,5-dimethyl-cyclohexane-1,3-dione as a pale yellow oil.

reactant | 5,5-Dimethyl-1,3-cyclohexanedione | 7.5 mmol, 1.051 g, 1.5 eq | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | cyclopropylacetic acid | 5.0 mmol, 500.6 mg | C1(CC1)CC(=O)O | C5H8O2
reactant | N,N′-dicyclohexylcarbodiimide | 16.0 mmol, 1.238 g, 1.2 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | cyclohexanedione | C1(C(CCCC1)=O)=O | C6H8O2
catalyst | 4-dimethylaminopyridine | 7.5 mmol, 916.3 mg, 1.5 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Cyclopropylacetyl)-5,5-dimethyl-cyclohexane-1,3-dione | 1.022 g, 92% yield | C1(CC1)CC(=O)C1C(CC(CC1=O)(C)C)=O | C13H18O3
